US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 11)
7-(4-Benzoyloxy-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 6-31, 422 mg, 0.761 mmol) was dissolved in mixed solvent of methanol (2 mL) and tetrahydrofuran (2 mL), and 4N aqueous sodium hydroxide solution (0.761 mL, 3.04 mmoL) was added thereto. After the reaction mixture was stirred at room temperature for 40 minutes, water (100 mL) and 1N aqueous HCl solution (4 mL) were added thereto. After the mixture was extracted with ethyl acetate (100 mL), the organic layer was washed with water (100 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was filtered with a mixed solvent of hexane (10 mL) and ethyl acetate (10 mL) to give the titled compound (292 mg) as a colorless solid. (Yield 85%)

reactant | 7-(4-Benzoyloxy-2-methoxyphenyl)-8-(5-fluoro-2-methylphenoxymethyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)C1=CC=C2NC(C(N(C2=C1COC1=C(C=CC(=C1)F)C)C)=O)(C)C)OC | C33H31FN2O5
reactant | water | 100 mL | O | H2O
reactant | HCl | 1N, 4 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 4N, 0.761 mL | [OH-].[Na+]
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 292 mg, Yield 85% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)O)OC)C1)C | C26H27FN2O4
